US05495046
66.02 g of 5-bromosalicylaldehyde was dissolved in 260 ml of N,N-dimethylformamide. Then 113.35 g of anhydrous potassium carbonate and 111.71 ml of (2-bromoethyl)benzene were added thereto and the resulting mixture was stirred at room temperature for 38 hours. After evaporation of the solvent under reduced pressure, ethyl acetate and water were added to the residue and the mixture was separated. The organic layer was collected and dried over anhydrous sodium sulfate. After evaporation of the solvent under reduced pressure, the residue was recrystallized from isopropanol to give 82.62 g of 5-bromo-2-(2-phenylethoxy)benzaldehyde. m.p. 79°-80° C.

reactant | 5-bromosalicylaldehyde | 66.02 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | potassium carbonate | 113.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2-bromoethyl)benzene | 111.71 ml | BrCCC1=CC=CC=C1 | C8H9Br
solvent | N,N-dimethylformamide | 260 ml | CN(C=O)C | C3H7NO
product | 5-bromo-2-(2-phenylethoxy)benzaldehyde | 82.62 g | BrC=1C=CC(=C(C=O)C1)OCCC1=CC=CC=C1 | C15H13BrO2
